US06426345B1
To a suspension of sodium hydride (60% in oil, 1.48 g) in N,N-dimethylformamide (40 ml) was added a solution of diethyl benzylphosphonate (7.69 g) in N,N-dimethylformamide (40 ml) at 0° C. The mixture was stirred at room temperature for 30 minutes, then a solution of 3-nitrobenzaldehyde (5.09 g) was added thereto. After stirring at 50° C. for 1 hour, the mixture was poured into dilute hydrochloric acid, and extracted with ethyl acetate 3 times. The combined organic solution was washed with water and brine, dried over magnesium sulfate and concentrated. The resultant solid was collected and washed with isopropyl ether to give (E)-3-nitrostilbene (3.97 g).

reactant | sodium hydride | 1.48 g | [H-].[Na+]
reactant | diethyl benzylphosphonate | 7.69 g | C(C1=CC=CC=C1)P(OCC)(OCC)=O | C11H17O3P
reactant | 3-nitrobenzaldehyde | 5.09 g | [N+](=O)([O-])C=1C=C(C=O)C=CC1 | C7H5NO3
reactant | hydrochloric acid | Cl | ClH
solvent | N,N-dimethylformamide | 40 ml | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 40 ml | CN(C=O)C | C3H7NO
product | (E)-3-nitrostilbene | 3.97 g | [N+](=O)([O-])C=1C=C(C=CC1)\C=C\C1=CC=CC=C1 | C14H11NO2
